US07598412B2
Benzofuran-2-carboxylic acid [2-(3,4-dimethoxy-phenyl)-2-methyl-propyl]-amide
2-(3,4-Dimethoxy-phenyl)-2-methyl-propylamine (106 mg, 0.506 mmol) and benzofuran-2-carbonyl chloride (90.7 mg, 0.502 mmol) were dissolved in 2 mL of 1,4-dioxane containing triethylamine (139 μL, 1.00 mmol). The reaction mixture was stirred for 15 hours, evaporated to dryness, redissolved in dichloromethane, and extracted with 1M hydrochloric acid, 1M sodium hydroxide, and a saturated aqueous solution of sodium chloride. The organic layer dried over sodium sulfate and evaporated to dryness. The crude product was then purified by column chromatography on silica gel using a gradient of 1-30% ethyl acetate in hexanes. The pure fractions were combined and evaporated to dryness to yield a white solid (153 mg, 0.433 mmol, 86.3%). ESI-MS m/z calc. 353.2, found 354.2 (M+1)+. Retention time of 2.99 minutes. 1H NMR (400 MHz, CD3CN) δ 1.38 (s, 6H), 3.60 (s, 2H), 3.81 (s, 3H), 3.83 (s, 3H), 6.85-7.06 (m, 4H), 7.31-7.39 (m, 2H), 7.46 (t, J=8.4 Hz, 1H), 7.52-7.56 (m, 1H), 7.72 (d, J=8.2 Hz, 1H).

reactant | 2-(3,4-Dimethoxy-phenyl)-2-methyl-propylamine | 0.506 mmol, 106 mg | COC=1C=C(C=CC1OC)C(CN)(C)C | C12H19NO2
reactant | benzofuran-2-carbonyl chloride | 0.502 mmol, 90.7 mg | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 1.00 mmol, 139 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Benzofuran-2-carboxylic acid [2-(3,4-dimethoxy-phenyl)-2-methyl-propyl]-amide | 0.433 mmol, 153 mg, 86.3% | COC=1C=C(C=CC1OC)C(CNC(=O)C=1OC2=C(C1)C=CC=C2)(C)C | C21H23NO4
